US05550134
(4aR)-(10bR)-8-(2-chlorobenzoyl)-4,10b-dimethyl-1,2,3,4,4a,-5,6,10b-octahydrobenzo[f]quinolin-3-one
To a solution of (4aR)-(10bR)-10b-methyl-8-bromo-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one in 50 mL of THF at -78° under an atmosphere of nitrogen was added 2.25 mL of a 1.4M solution of methyllithium in diethyl ether (3.15 mmol). After 10 min, 3.34 mL of a 1.7M solution of t-butyllithium in pentane (5.68 mmol) was added. The reaction mixture was stirred for 10 min before the addition of 2-chlorobenzaldehyde (870 mL, 7.72 mmol) as a single aliquot. The reaction was warmed to room temperature and stirred for 2 h before partitioning between ethyl acetate and 1N hydrochloric acid. The organic layer was dried, filtered and evaporated under reduced pressure to afford 1.7 g of crude product. The material was purified on a Chromatotron (4 mm plate, dry loaded with chloroform, eluted with 5% methanol/chloroform) to give 435.5 mg of desired product (47% yield): mp 105°-115°. FDMS: m/e=355, 357.

reactant | (4aR)-(10bR)-10b-methyl-8-bromo-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | C[C@@]12CCC(N[C@@H]2CCC2=C1C=CC(=C2)Br)=O | C14H16BrNO
reactant | methyllithium | C[Li]
reactant | diethyl ether | 3.15 mmol | C(C)OCC | C4H10O
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 5.68 mmol | CCCCC | C5H12
reactant | 2-chlorobenzaldehyde | 7.72 mmol, 870 mL | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4aR)-(10bR)-8-(2-chlorobenzoyl)-4,10b-dimethyl-1,2,3,4,4a,-5,6,10b-octahydrobenzo[f]quinolin-3-one | 435.5 mg, 47% yield | ClC1=C(C(=O)C2=CC3=C([C@]4(CCC(N([C@@H]4CC3)C)=O)C)C=C2)C=CC=C1 | C22H22ClNO2
